US05972975
EXAMPLE 47 2-Amino-5-hydroxymethyl-4-methylpyridine
To a mixture of lithium aluminum hydride (LAH) (90 mg, 2.37 mmol) in dry tetrahydrofuran (THF) (2 mL) was added a solution of 2-amino-5-methoxycarbonyl-4-methylpyridine (100 mg, 0.602 mmol) in THF (1 mL). The reaction mixture was stirred for 1 h at reflux temperature. Excess LAH was decomposed by successive addition of water (90 uL), 15% sodium hydroxide (90 uL), and water (270 uL). Solids were removed by filtration through a pad of Celite. The title compound was obtained as a white crystalline solid after chromatography on silica gel (5-15% methanol/methylene chloride).

reactant | lithium aluminum hydride | 2.37 mmol, 90 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-5-methoxycarbonyl-4-methylpyridine | 0.602 mmol, 100 mg | NC1=NC=C(C(=C1)C)C(=O)OC | C8H10N2O2
reactant | water | 90 uL | O | H2O
reactant | sodium hydroxide | 90 uL | [OH-].[Na+]
reactant | water | 270 uL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | THF | 1 mL | O1CCCC1 | C4H8O
product | 2-Amino-5-hydroxymethyl-4-methylpyridine | NC1=NC=C(C(=C1)C)CO | C7H10N2O
